**5-bit Carry Lookahead Adder
.include TSMC_180nm.txt
.param SUPPLY=1.8
.global gnd vdd
.param LAMBDA=0.09u
.param width_N=1.8u
.param width_P=2*width_N

* inverter
.subckt INV in out vdd gnd
M_N out in gnd gnd CMOSN W={width_N} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M_P out in vdd vdd CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
.ends INV

* 2 input nand 
.subckt NAND2 a b out vdd gnd
M_N1 out a n1 gnd CMOSN W={2*width_N} L={2*LAMBDA}
+ AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}
M_N2 n1 b gnd gnd CMOSN W={2*width_N} L={2*LAMBDA}
+ AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}
M_P1 out a vdd vdd CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
M_P2 out b vdd vdd CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
.ends NAND2

* 2 input nor 
.subckt NOR2 a b out vdd gnd
M_N1 out a gnd gnd CMOSN W={width_N} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M_N2 out b gnd gnd CMOSN W={width_N} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M_P1 out a n1 vdd CMOSP W={2*width_P} L={2*LAMBDA}
+ AS={5*2*width_P*LAMBDA} PS={10*LAMBDA+2*2*width_P} AD={5*2*width_P*LAMBDA} PD={10*LAMBDA+2*2*width_P}
M_P2 n1 b vdd vdd CMOSP W={2*width_P} L={2*LAMBDA}
+ AS={5*2*width_P*LAMBDA} PS={10*LAMBDA+2*2*width_P} AD={5*2*width_P*LAMBDA} PD={10*LAMBDA+2*2*width_P}
.ends NOR2

* 2 input or 
.subckt OR2 a b out vdd gnd
XNOR a b nor_out vdd gnd NOR2
XINV nor_out out vdd gnd INV
.ends OR2

* 2 input xor 
.subckt XOR2 a b out vdd gnd
XNAND1 a b nand_ab vdd gnd NAND2
XNAND2 a nand_ab nand_a vdd gnd NAND2
XNAND3 b nand_ab nand_b vdd gnd NAND2
XNAND4 nand_a nand_b out vdd gnd NAND2
.ends XOR2

* 3 input and
.subckt NAND3 a b c out vdd gnd
M_N1 out a n1 gnd CMOSN W={3*width_N} L={2*LAMBDA}
+ AS={5*3*width_N*LAMBDA} PS={10*LAMBDA+2*3*width_N} AD={5*3*width_N*LAMBDA} PD={10*LAMBDA+2*3*width_N}
M_N2 n1 b n2 gnd CMOSN W={3*width_N} L={2*LAMBDA}
+ AS={5*3*width_N*LAMBDA} PS={10*LAMBDA+2*3*width_N} AD={5*3*width_N*LAMBDA} PD={10*LAMBDA+2*3*width_N}
M_N3 n2 c gnd gnd CMOSN W={3*width_N} L={2*LAMBDA}
+ AS={5*3*width_N*LAMBDA} PS={10*LAMBDA+2*3*width_N} AD={5*3*width_N*LAMBDA} PD={10*LAMBDA+2*3*width_N}
M_P1 out a vdd vdd CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
M_P2 out b vdd vdd CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
M_P3 out c vdd vdd CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
.ends NAND3

* 4 input and 
.subckt NAND4 a b c d out vdd gnd
M_N1 out a n1 gnd CMOSN W={4*width_N} L={2*LAMBDA}
+ AS={5*4*width_N*LAMBDA} PS={10*LAMBDA+2*4*width_N} AD={5*4*width_N*LAMBDA} PD={10*LAMBDA+2*4*width_N}
M_N2 n1 b n2 gnd CMOSN W={4*width_N} L={2*LAMBDA}
+ AS={5*4*width_N*LAMBDA} PS={10*LAMBDA+2*4*width_N} AD={5*4*width_N*LAMBDA} PD={10*LAMBDA+2*4*width_N}
M_N3 n2 c n3 gnd CMOSN W={4*width_N} L={2*LAMBDA}
+ AS={5*4*width_N*LAMBDA} PS={10*LAMBDA+2*4*width_N} AD={5*4*width_N*LAMBDA} PD={10*LAMBDA+2*4*width_N}
M_N4 n3 d gnd gnd CMOSN W={4*width_N} L={2*LAMBDA}
+ AS={5*4*width_N*LAMBDA} PS={10*LAMBDA+2*4*width_N} AD={5*4*width_N*LAMBDA} PD={10*LAMBDA+2*4*width_N}
M_P1 out a vdd vdd CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
M_P2 out b vdd vdd CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
M_P3 out c vdd vdd CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
M_P4 out d vdd vdd CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
.ends NAND4

* 5 input and 
.subckt NAND5 a b c d e out vdd gnd
M_N1 out a n1 gnd CMOSN W={5*width_N} L={2*LAMBDA}
+ AS={5*5*width_N*LAMBDA} PS={10*LAMBDA+2*5*width_N} AD={5*5*width_N*LAMBDA} PD={10*LAMBDA+2*5*width_N}
M_N2 n1 b n2 gnd CMOSN W={5*width_N} L={2*LAMBDA}
+ AS={5*5*width_N*LAMBDA} PS={10*LAMBDA+2*5*width_N} AD={5*5*width_N*LAMBDA} PD={10*LAMBDA+2*5*width_N}
M_N3 n2 c n3 gnd CMOSN W={5*width_N} L={2*LAMBDA}
+ AS={5*5*width_N*LAMBDA} PS={10*LAMBDA+2*5*width_N} AD={5*5*width_N*LAMBDA} PD={10*LAMBDA+2*5*width_N}
M_N4 n3 d n4 gnd CMOSN W={5*width_N} L={2*LAMBDA}
+ AS={5*5*width_N*LAMBDA} PS={10*LAMBDA+2*5*width_N} AD={5*5*width_N*LAMBDA} PD={10*LAMBDA+2*5*width_N}
M_N5 n4 e gnd gnd CMOSN W={5*width_N} L={2*LAMBDA}
+ AS={5*5*width_N*LAMBDA} PS={10*LAMBDA+2*5*width_N} AD={5*5*width_N*LAMBDA} PD={10*LAMBDA+2*5*width_N}
M_P1 out a vdd vdd CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
M_P2 out b vdd vdd CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
M_P3 out c vdd vdd CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
M_P4 out d vdd vdd CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
M_P5 out e vdd vdd CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
.ends NAND5

* propagate and generate block
.subckt PG a b p gn vdd gnd
XXOR a b p vdd gnd XOR2
XAND a b gn vdd gnd NAND2
.ends PG

.subckt CARRY p0 p1 p2 p3 p4 g0n g1n g2n g3n g4n c1 c2 c3 c4 c5 vdd gnd
XINV1 g0n c1 vdd gnd INV
XINV2 g1n g1 vdd gnd INV
XINV3 g2n g2 vdd gnd INV
XINV4 g3n g3 vdd gnd INV
XINV5 g4n g4 vdd gnd INV
XINV6 g0n g0 vdd gnd INV

* C2 = G1 + P1·G0
XAND_C2_1 p1 g0 term_c2_1 vdd gnd NAND2
XOR_C2 g1n term_c2_1 c2 vdd gnd NAND2

* C3 = G2 + P2·G1 + P2·P1·G0
XAND_C3_1 p2 g1 term_c3_1 vdd gnd NAND2
XAND_C3_2 p2 p1 g0 term_c3_2 vdd gnd NAND3
XOR_C3 g2n term_c3_1 term_c3_2 c3 vdd gnd NAND3

* C4 = G3 + P3·G2 + P3·P2·G1 + P3·P2·P1·G0
XAND_C4_1 p3 g2 term_c4_1 vdd gnd NAND2
XAND_C4_2 p3 p2 g1 term_c4_2 vdd gnd NAND3
XAND_C4_3 p3 p2 p1 g0 term_c4_3 vdd gnd NAND4
XOR_C4 g3n term_c4_1 term_c4_2 term_c4_3 c4 vdd gnd NAND4

* C5 = G4 + P4·G3 + P4·P3·G2 + P4·P3·P2·G1 + P4·P3·P2·P1·G0
XAND_C5_1 p4 g3 term_c5_1 vdd gnd NAND2
XAND_C5_2 p4 p3 g2 term_c5_2 vdd gnd NAND3
XAND_C5_3 p4 p3 p2 g1 term_c5_3 vdd gnd NAND4
XAND_C5_4 p4 p3 p2 p1 g0 term_c5_4 vdd gnd NAND5
XOR_C5 g4n term_c5_1 term_c5_2 term_c5_3 term_c5_4 c5 vdd gnd NAND5

.ends CARRY

.subckt CLA a0 a1 a2 a3 a4 b0 b1 b2 b3 b4 s0 s1 s2 s3 s4 cout vdd gnd
* Propagate and Generate
XPG0 a0 b0 p0 g0n vdd gnd PG
XPG1 a1 b1 p1 g1n vdd gnd PG
XPG2 a2 b2 p2 g2n vdd gnd PG
XPG3 a3 b3 p3 g3n vdd gnd PG
XPG4 a4 b4 p4 g4n vdd gnd PG

* Carry
XCARRY p0 p1 p2 p3 p4 g0n g1n g2n g3n g4n c1 c2 c3 c4 cout vdd gnd CARRY

* Sum
XXOR0 p0 gnd s0 vdd gnd XOR2
XXOR1 p1 c1 s1 vdd gnd XOR2
XXOR2 p2 c2 s2 vdd gnd XOR2
XXOR3 p3 c3 s3 vdd gnd XOR2
XXOR4 p4 c4 s4 vdd gnd XOR2
.ends CLA


VDD vdd gnd 1.8

* Va0 a0 gnd PULSE(0 0 20n 0 0 100n 200n)
* Va1 a1 gnd PULSE(0 0 20n 0 0 100n 200n)
* Va2 a2 gnd PULSE(0 0 20n 0 0 100n 200n)
* Va3 a3 gnd PULSE(0 0 20n 0 0 100n 200n)
* Va4 a4 gnd PULSE(0 1.8 20n 0 0 100n 200n)

* Vb0 b0 gnd PULSE(0 0 0 20n 0 100n 200n)
* Vb1 b1 gnd PULSE(0 0 20n 0 0 100n 200n)
* Vb2 b2 gnd PULSE(0 0 0 20n 0 100n 200n)
* Vb3 b3 gnd PULSE(0 0 0 20n 0 100n 200n)
* Vb4 b4 gnd PULSE(0 1.8 20n 0 0 100n 200n)

Va0 a0 gnd 0
Va1 a1 gnd 0
Va2 a2 gnd 0
Va3 a3 gnd 0
Va4 a4 gnd 1.8

Vb0 b0 gnd 0
Vb1 b1 gnd 0
Vb2 b2 gnd 0
Vb3 b3 gnd 0
Vb4 b4 gnd PULSE(0 1.8 20n 0 0 5n 10n)

XCLA a0 a1 a2 a3 a4 b0 b1 b2 b3 b4 s0 s1 s2 s3 s4 cout vdd gnd CLA

.control
tran 0.1n 50n
*plot v(a0) v(a1)+2 v(a2)+4 v(a3)+6 v(a4)+8 
plot v(b4) v(cout)+2
*v(b1)+2 v(b2)+4 v(b3)+6 v(b4)+8 
*plot v(s0) v(s1)+2 v(s2)+4 v(s3)+6 v(s4)+8 

* Propagation delay: t(50% of cout) - t(50% of b4)
meas tran t_b4_50_rise  WHEN v(b4)=0.9 RISE=1
meas tran t_cout_50_rise  WHEN v(cout)=0.9 RISE=1

meas tran t_b4_50_fall  WHEN v(b4)=0.9 FALL=1
meas tran t_cout_50_fall  WHEN v(cout)=0.9 FALL=1
run
.endc

.end

